US05037714
3.7 g of p-hydroxybenzaldehyde and 2.3 g of malononitrile were dissolved in 10 ml of isopropanol followed by adding 1 drop of piperidine and reacted at 80° C. for 1 hour. Crystals were precipitated after cooling to the room temperature, collected by filtration and recrystallized from isopropanol to obtain 3.6 g of 4-(2,2'-dicyanovinyl)phenol as yellow crystals. Melting point=188-189.5° C.

reactant | p-hydroxybenzaldehyde | 3.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | malononitrile | 2.3 g | C(CC#N)#N | C3H2N2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 4-(2,2'-dicyanovinyl)phenol | 3.6 g | C(#N)C(=CC1=CC=C(C=C1)O)C#N | C10H6N2O
